*Needs new sym for tline and ltline.
**********
* Copyright Intusoft 1988-1997
* All Rights Reserved
**********
**********
*SRC=NBJT;NBJT;Generic Models;BJT;NPN Small Signal
*SYM=NBJT
.SUBCKT NBJT 1 2 3 {COB=??? FT=??? TS=??? IMAX=???}
*Connections C B E
*Parameters: COB Output capacitance in Farads @ 10V, FT Gain Badwidth in Hz, 
* TS Storage Time in Sec, IMAX Max IC. in Amps
Q1 1 2 3 NBJT
.MODEL NBJT NPN(CJC={2.2*COB} TF={.16/FT} TR={1.7*TS}
+ CJE={7*COB} RC={.5/IMAX} VAF=100 IKF={.7*IMAX} IS={2E-15*IMAX} )
.ENDS
**********
*SRC=PBJT;PBJT;Generic Models;BJT;PNP Small Signal
*SYM=PBJT
.SUBCKT PBJT 1 2 3 {COB=??? FT=??? TS=??? IMAX=???}
*Connections C B E
*Parameters: COB Output capacitance in Farads @ 10V, FT Gain Badwidth in Hz, 
* TS Storage Time in Sec, IMAX Max IC. in Amps
Q1 1 2 3 PBJT 
.MODEL PBJT PNP(CJC={2.2*COB} TF={.16/FT} TR={1.7*TS}
+ CJE={7*COB} RC={.5/IMAX} VAF=100 IKF={.7*IMAX} IS={2E-15*IMAX} )
.ENDS
**********
*SRC=NPWR;NPWR;Generic Models;BJT;NPN Power 
*SYM=NPWR
.SUBCKT NPWR 1 2 3 {COB=??? FT=??? TS=??? IMAX=???}
*Connections C B E
*Parameters: COB Output capacitance in Farads @ 10V, FT Gain Badwidth in Hz, 
* TS Storage Time in Sec, IMAX Max IC. in Amps
Q1 1 2 3 NBJT1 AREA=.67
Q2 1 4 3 NBJT1 AREA=.33
RB1 2 4 {1800/IMAX}  
.MODEL NBJT1 NPN( CJC={2.2*COB} TF={.16/FT} TR={1.7*TS}
+ CJE={7*COB} RC={1.5/IMAX} VAF=100 IKF={.7*IMAX} IS={2E-15*IMAX} )
.ENDS
**********
*SRC=CORE;CORE;Magnetic Cores;Generic;Saturable Core
*SYM=CORE
.SUBCKT CORE 1 2 3 {VSEC=??? IVSEC=??? LMAG=??? LSAT=??? FEDDY=???}
*Connections + - Flux Test Point
*Parameters:
* VSEC, VOLT-SEC CORE CAPACITY (2Bm) in V-sec
* IVSEC, INITIAL CONDITION in V-sec
* LMAG, MAGNETIZING INDUCTANCE in Henries
* LSAT, SATURATION INDUCTANCE in Henries
* FEDDY, FREQUENCY WHEN LMAG REACTANCE = LOSS RESISTANCE in Hz
* EXAMPLE CALL
*   XCORE1 5 6 7 CORE {VSEC=50U IVSEC=-25U LMAG=10MHY LSAT=20UHY FEDDY=20KHZ}
*
RX 3 2 1E12
* EXAMPLE MAKES CB=1E-7, IC=-250
CB 3 2 {VSEC/500} IC={IVSEC/VSEC*500}
F1 1 2 VM1 1
G2 2 3 1 2 1
E1 4 2 3 2 1
VM1 4 5 
* EXAMPLE MAKES RB=100K
RB 5 2 {LMAG*500/VSEC}
RS 5 6 {LSAT*500/VSEC}
* EXAMPLE MAKES RS=200
VP 7 2 250
D1 6 7 DCLAMP
VN 2 8 250
D2 8 6 DCLAMP
*EXAMPLE MAKES CJO=238PF, MULTIPLIER 3 AND VJ=25 GO TOGETHER
.MODEL DCLAMP D(CJO={3*VSEC/(6.28*FEDDY*500*LMAG)} VJ=25)
.ENDS
**********
*SRC=XFMRWCORE;XFMRWCORE;Transformers;Ratio=Sec/Pri;
*SYM=XFMR
.SUBCKT XFMRWCORE 100 2 300 4 {RATIO=??? VSEC=??? IVSEC=0 LMAG=??? LSAT=??? FEDDY=??? LEAKPRI=???
+ LEAKSEC=??? RP=.01 RS=.01}
*Connections      +Pri -Pri +Sec -Sec
*Parameters:
* VSEC, VOLT-SEC CORE CAPACITY (2Bm) in V-sec
* IVSEC, INITIAL CONDITION in V-sec
* LMAG, MAGNETIZING INDUCTANCE in Henries
* LSAT, SATURATION INDUCTANCE in Henries
* FEDDY, FREQUENCY WHEN LMAG REACTANCE = LOSS RESISTANCE in Hz
* LEAKPRI, Primary leakage inductance in Henries
* LEAKSEC, Secondary leakage inductance in Henries
* RP, Primary series resistance in Ohms
* RS, Secondary series resistance in Ohms
*
* Ratio = Secondary/Primary
*
* 100__Rpri__10__LeakPri___1_______   _______3___LeakSec__30__Rsec___300
*                        ||  +     ) (     +
*                       (||        ) (      
*                  Core (||  V1    ) (     V2
*                       (||        ) (
*                       (||  -     ) (     -
*________________________||2_______) (_______4_________________________
*
*         1 : RATIO
*
XCore 1 2 100 CORE {VSEC=VSEC IVSEC=IVSEC LMAG=LMAG LSAT=LSAT FEDDY=FEDDY} ; Core across 1&2

Leakpri 10 1 {Leakpri}
Rpri 100 10 {RP}

Leaksec 30 3 {Leaksec}
Rsec 300 30 {RS}

RP 1 2 1MEG
E 5 4 1 2 {RATIO}
F 1 2 VM {RATIO}
RS 6 3 1U
VM 5 6 
.ENDS
*INCLUDE DEVICE.LIB
**********
*SRC=XFMR;XFMR;Transformers;Ratio=Sec/Pri;
*SYM=XFMR
.SUBCKT XFMR 1    2    3    4 {RATIO=???}
*Connections +Pri -Pri +Sec -Sec
*Parameters:
* Ratio = Secondary/Primary turns ratio
*
*  1_______   _______3
*    +     ) (     +
*          ) (      
*    V1    ) (     V2
*          ) (
*    -     ) (     -
*  2_______) (_______4
*
*         1 : RATIO
*
RP 1 2 1MEG
E 5 4 1 2 {RATIO}
F 1 2 VM {RATIO}
RS 6 3 1U
VM 5 6 
.ENDS
**********
*SRC=COUPLEDIND;COUPLEDIND;Inductors;Coupled;w/Parasitics
*SYM=COUPLEDL
.SUBCKT COUPLEDIND 1    2    3    4 {LPRIM=??? LSEC=??? K=??? RP=.01 RS=.01}
*Connections       +Pri -Pri +Sec -Sec
*Parameters:
* Lprim - Primary Inductance in Henries
* Lsec  - Secondary Inductance in Henries
* K     - Coupling Coefficient >> Lprim=Lmag, Lsec = N^2*Lprim, K=1-Leakage/Lmag
* RP    - Primary Series Resistance in Ohms
* RS    - Secondary Series Resistance in Ohms
*  1_______   _______3
*    +     ) (     +
*          ) (      
*    V1    ) (     V2
*          ) (
*    -     ) (     -
*  2_______) (_______4
*
*         K = 1 - Le/Lm
*
RP 1 10 {RP}
LP 10 2 {LPRIM}
RS 3 30 {RS}
LS 30 4 {LSEC}
K1 LP LS {K}
.ENDS
**********
*SRC=COUPLEDL;COUPLEDL;Transformers;Coupled Inductors;
*SYM=COUPLEDL
.SUBCKT COUPLEDL 1    2    3    4 {LPRIM=??? LSEC=??? K=??? RP=.01 RS=.01}
*Connections     +Pri -Pri +Sec -Sec
*Parameters:
*Lprim - Primary Inductance in Henries
*Lsec  - Secondary Inductance in Henries
*K     - Coupling Coefficient >> Lprim=Lmag, Lsec = N^2*Lprim, K=1-Leakage/Lmag
*RP    - Primary Series Resistance in Ohms
*RS    - Secondary Series Resistance in Ohms
*  1_______   _______3
*    +     ) (     +
*          ) (      
*    V1    ) (     V2
*          ) (
*    -     ) (     -
*  2_______) (_______4
*
*
RP 1 10 {RP}
LP 10 2 {LPRIM}
RS 3 30 {RS}
LS 30 4 {LSEC}
K1 LP LS {K}
.ENDS
**********
*SRC=XFMR-TAP;XFMR-TAP;Transformers;Center-Tapped;
*SYM=XFMR-TAP
.SUBCKT XFMR-TAP 1    2    3       4       5  {RATIO=???}
*Connections     +Pri -Pri +Sec Center-Tap -Sec
*Parameters:
* Ratio = V2/V1 AND V2=V3
*
*  1_______   _______3
*    +     ) (     
*          ) (   V2   
*    V1    ) (_______4
*          ) (
*    -     ) (   V3
*  2_______) (_______5
*
E1 7 8 1 2 {RATIO}
F1 1 2 VM1 {RATIO}
RP 1 2 1MEG
RS 6 3 1U
VM1 7 6
F2 1 2 VM2 {RATIO}
E 9 5 1 2 {RATIO}
R5 8 4 1U
VM2 9 8
.ENDS
**********
*SRC=PWM;PWM;PWM Models;Average;Pulse Width Modulator
*SYM=PWM
.SUBCKT PWM 1 2 3 4 5
*
*  1______
*         )
*         )
*         )_______3
*         )  ^
*  2______)  |
*            |
*            |
*  4 ________|
*            |
*  5_________|
*
RP 1 2 1MEG
E 6 2 POLY(2) 1 2 4 5 0 0 0 0 1 
G 1 2 POLY(2) 6 3 4 5 0 0 0 0 1K
RS 6 3 1M
.ENDS
**********
*SRC=GAS;GAS;Generic Models;GaAs FET;
*SYM=GAS
.SUBCKT GAS  1 2 3 {L=??? W=??? KP=??? RHOG=??? RHOD=??? DC=??? VT=??? N=???}
*Connections D G S
*Parameters:
* L=CHANNEL LENGTH IN MICRONS
* W=CHANNEL WIDTH IN MICRONS
* KP=KPRIME, ID=KP*W/L(VG-VT)^2
* RHOG=GATE METAL OHMS/MICRON
* RHOD=DRAIN METAL OHMS/MICRON
* DC=CAPACITANCE/MICRON
* VT=THRESHOLD
* N=NUMBER OF DEVICES DEFINED BY W AND L THAT ARE IN PARALLEL
*
* SUBSTRATE CAPACITIVE COUPLING IS IGNORED
*
RG 2 4 {W*RHOG/N}
RD 1 5 {W*RHOD/N}
DGS 4 3 DGAS
*THE GATE DRAIN DIODE IS NOT MODELED SINCE IT IS ALWAYS REVERSE BIASED
* THIS IS AN ESTIMATE OF A GAS JFET, SET N=1 FOR A MESFET
* FOR MORE DETAIL, SEE THE CHAPTER ON DIODE MODELS
.MODEL DGAS D(N=2)
RGG 4 6 1E10
J1 5 4 3 JFET
J2 5 6 3 JFET AREA=.33
*THE ABOVE AREA PARAMETER MUST BE DETERMINED EXPERIMENTALLY
*TO MATCH THE DEVICE SATURATION SLOPES AT HIGH FREQUENCY
.MODEL JFET NJF(BETA={KP*W/L*N} LAMBDA=.15 IS=1E-30 CGS={DC*W*N}
+ CGD={DC*W*N} VTO={VT} )
.ENDS
**********
*SRC=WIRE;WIRE;Interconnects;Generic;Single LC section
*SYM=WIRE
.SUBCKT WIRE 1 2 {Impedance=??? Length=???}
*Connections + -
*Parameters:
* Impedance in Ohms, Length In Inches
L1 1 2 {Impedance * Length * 125P}
C1 2 0 {125P * Length / Impedance}
.ENDS
**********
*SRC=WIREA;WIREA;Interconnects;Generic;LC section w/dielectric
*SYM=WIREA
.SUBCKT WIREA 1 2 {Impedance=??? Length=??? K=???}
*Connections  + -
*Parameters:
* Impedance in Ohms, Length In Inches, K = dielectric constant
L1 1 2 {Impedance * Length * (1/(1.18E10 * K^-.5)) }
C1 1 0 {Length * (1/(1.18E10 * K^-.5)) / Z }
.ENDS
**********
*SRC=WIRE4;WIRE4;Interconnects;Generic;4 LC sections
*SYM=WIRE4
.SUBCKT WIRE4 1 5  {Impedance=??? Length=???}
*Connections  + -
*Parameters:
* Impedance in Ohms, Length In Inches
L1 1 2 {Impedance*Length*31.25P}
C1 2 0 {31.25P*LEN/Impedance}
L2 2 3 {Impedance*Length*31.25P}
C2 3 0 {31.25P*Length/Impedance}
L3 3 4 {Impedance*Length*31.25P}
C3 4 0 {31.25P*Length/Impedance}
L4 4 5 {Impedance*Length*31.25P}
C4 5 0 {31.25P*Length/Impedance}
.ENDS
**********
*SRC=MWIRE;MWIRE;Interconnects;Generic;Crosstalk Model
*SYM=MWIRE
.SUBCKT MWIRE 1   2    3   4 {Impedance=??? Length=??? KC=??? KM=???}
*Connections  in1 out1 in2 out2
*Parameters:
* Impedance in Ohms, Length In Inches, KM Inductive Coupling Coefficient,
* KC Capacitive Coupling Coefficient
L1 1 2 {Impedance*Length*125P}
C1 2 0 {125P*Length/Impedance}
L2 3 4 {Impedance*Length*125P}
K12 L1 L2 {KM}
C12 2 4 {KC*125P*Length/Impedance}
.ENDS
**********
*SRC=GWIRE;GWIRE;Interconnects;Generic;Ground Plane Coupling
*SYM=GWIRE
.SUBCKT GWIRE 1 2 3 4 {Impedance=??? Length=??? N=??? KM=???}
*Connections  in1 out1 in2 out2
*Parameters:
* Impedance in Ohms, Length In Inches, KM Inductive Coupling Coefficient,
* N Turns Ratio
L1 1 2 {(Impedance*Length*125P)/(N^2-(KM*N)+1)}
C1 2 4 {125P*Length/Impedance}
L2 3 4 {((Impedance*Length*125P)/(N^2-(KM*N)+1))*N^2}
K12 L1 L2 {KM}
.ENDS
**********
*SRC=VARES;VARES;Resistors;Voltage Control;Req=R(Vctrl^2)
*SYM=VARES
.SUBCKT VARES 10    20    40 {RNOM=???}
*Connections  Term1 Term2 Control
* The control voltage must be referenced to Term2
* Requivalent = R(Vcontrol^2)
*Parameters: Rnom nominal resistance in Ohms
R 10 30 {RNOM}
RI 40 20 1.0
ER 30 20 POLY(2) 10 30 40 20 0 -1.0 0 0 0 0 0 0 1.0
.ENDS
**********
*SRC=VARCAP;VARCAP;Capacitors;Voltage Control;Ceq=C*(1+Vctrl)
*SYM=VARCAP
.SUBCKT VARCAP 10    20    40 {CNOM=???}
*Connections  Term1 Term2 Control
* The control voltage must be referenced to Term2
* Cequivalent = C*(1+Vcontrol)
*Parameters: Cnom nominal capacitance in Farads
C 10 30 {CNOM}
RI 40 20 1.0
EC 30 20 POLY(2) 10 20 40 20 0 0 0 0 -1.0
.ENDS
**********
*SRC=VARIND;VARIND;Inductors;Voltage Control;Leq=L*(Vctrl)
*SYM=VARIND
.SUBCKT VARIND 10    20    40 {LNOM=???}
*Connections  Term1 Term2 Control
* The control voltage must be referenced to Term2
* Lequivalent = L*(Vcontrol)
*Parameters: Lnom nominal inductance in Henries
L 30 20 {LNOM}
RI 50 20 1.0
VAMP 10 30 0
VSENSE 40 50 0
FL 30 20 POLY(2) VAMP VSENSE 0 1.0 0 0 -1.0
.ENDS
**********
*SRC=VARES2;VARES2;Resistors;Voltage Control;RON=1/Vctrl, ROFF=1E10
*SYM=SWITCH
.SUBCKT VARES2 1    2     3
*Connections  Term1 Term2 Control
* The switch is OPEN WHEN V(3) = 0, It is CLOSED WHEN V(3) <> 0
* The ON RESISTANCE IS 1 / V(3)
* The OFF RESISTANCE IS 1E10
R1 1 2 1E10
G1 1 2 POLY(2) 1 2 3 0 0 0 0 0 1
.ENDS
**********
*SRC=SWITCH;SWITCH;Switches;Linear;RON=1/Vcontrol, ROFF=1E12
*SYM=SWITCH
.SUBCKT SWITCH 1     2     3
*Connections   Term1 Term2 Control
* The switch is OPEN WHEN V(3) = 0, It is CLOSED WHEN V(3) <> 0
* The ON RESISTANCE IS 1 / V(3)
* The OFF RESISTANCE IS 1E10
R1 1 2 1E10
G1 1 2 POLY(2) 1 2 3 0 0 0 0 0 1
.ENDS
**********
*SRC=CCSWITCH2;CCSWITCH2;Switches;Hysteresis;Cur Ctrld w/Hysteresis 
*SYM=CCSWITCH
.SUBCKT CCSWITCH2 1 2 3   4 {RON=1 ROFF=1MEG IT=1 IH=0}
*Connections      + - NC+ NC-
*Parameters: Ron On Resistance in Ohms, Roff Off Resistance in Ohms
* It On Current in Amps, Ih Hysteresis Current in Amps
* This is the same as the Berkeley SPICE 3 current controlled switch
* except the inputs are nodes that must be connected
* in the branch (breaking the branch) whose current controls 
* the switch.
W1 1 2 VW SW
VW 3 4
.MODEL SW CSW RON={RON} ROFF={ROFF} IT={IT} IH={IH}
.ENDS
**********
*SRC=CCSWITCH;CCSWITCH;Switches;Smooth;Cur Ctrl'd w/Smooth Transition
*SYM=CCSWITCH
*HELP issyntax.hlp "Smooth Transition Switch"
.SUBCKT CCSWITCH 1 2 3   4 {RON=1 ROFF=1MEG ION=0.1 IOFF=0}
*Connections     + - NC+ NC-
*Parameters: Ron On Resistance in Ohms, Roff Off Resistance in Ohms
* ION On Current in Amps, IOFF Off Current in Amps
* IF I(Switch) > ION THEN RSwitch=RON, IF I(Switch) < IOFF THEN RSwitch=ROFF, ELSE
* RSwitch will smoothly transistion between the on and off states
VW 3 4
H1 5 6 VW 1
A1 1 2 5 6 SMOOTH
.MODEL SMOOTH VSWITCH RON={RON} ROFF={IOFF} VON={ION} VOFF={IOFF}
.ENDS
**********
*SRC=SSWITCH;SSWITCH;Switches;Smooth;V Ctrl'd w/Smooth Transition
*SYM=SWITCH2
*HELP issyntax.hlp "Smooth Transition Switch"
.SUBCKT SSWITCH 1 2 3   4 {RON=1 ROFF=1MEG VON=1 VOFF=0}
*Connections    + - NC+ NC-
*Parameters: Ron On Resistance in Ohms, Roff Off Resistance in Ohms
* VON On Current in Amps, VOFF Off Current in Amps
* IF V(3,4) > VON THEN RSwitch=RON, IF V(3,4) < VOFF THEN RSwitch=ROFF, ELSE
* RSwitch will smoothly transistion between the on and off states
A1 1 2 3 4 SMOOTH
.MODEL SMOOTH VSWITCH RON={RON} ROFF={ROFF} VON={VON} VOFF={VOFF}
.ENDS
**********
*SRC=PSW1;PSW1;Switches;Smooth;VON>VOFF Behavioral
*SYM=SWITCH2
.SUBCKT PSW1 1 2 3   4 {RON=1 ROFF=1MEG VON=1 VOFF=0}
*Connections + - NC+ NC-
*Parameters: Ron On Resistance in Ohms, Roff Off Resistance in Ohms
* VON On Current in Amps, VOFF Off Current in Amps
* VON > Voff Case
* IF V(3,4) > VON THEN RSwitch=RON, IF V(3,4) < VOFF THEN RSwitch=ROFF, ELSE
* RSwitch will smoothly transistion between the on and off states
B1 1 2 I=V(3,4) < {VOFF} ? V(1,2)/{ROFF} : V(3,4) > {VON} ?
+ V(1,2)/{RON} : V(1,2)/ (EXP(LN({(RON*ROFF)^.5}) + 
+ 3 * LN({RON/ROFF}) * (V(3,4) - {(VON+VOFF)/2}) / ({2* (VON-VOFF)}) - 
+ 2 * LN({RON/ROFF}) * (V(3,4) - {(VON+VOFF)/2})^3 / {(VON-VOFF)^3} ))
.ENDS
**********
*SRC=PSW2;PSW2;Switches;Smooth;VON<VOFF Behavioral
*SYM=SWITCH2
.SUBCKT PSW2 1 2 3   4 {RON=1 ROFF=1MEG VON=0 VOFF=1}
*Connections + - NC+ NC-
*Parameters: Ron On Resistance in Ohms, Roff Off Resistance in Ohms
* VON On Current in Amps, VOFF Off Current in Amps
* VON < Voff Case
* IF V(3,4) > VON THEN RSwitch=RON, IF V(3,4) < VOFF THEN RSwitch=ROFF, ELSE
* RSwitch will smoothly transistion between the on and off states
B1 1 2 I=V(3,4) < {VON} ? V(1,2)/{RON} : V(3,4) > {VOFF} ?
+ V(1,2)/{ROFF} : V(1,2)/ (EXP(LN({(RON*ROFF)^.5}) - (3 * LN({RON/ROFF}) * 
+ (V(3,4) - {(VON+VOFF)/2}) / {2* (VOFF-VON)}) + 
+ (2 * LN({RON/ROFF}) * (V(3,4) - {(VON+VOFF)/2})^3 / {(VOFF-VON)^3} )))
.ENDS
**********
*SRC=TANHSW;TANHSW;Switches;TANH Function;TANH Function
*SYM=SWITCHPB
.SUBCKT TANHSW 1 2 3 {RON=1 ROFF=1MEG VON=1 VOFF=0}
*Connections   + - Control
*Parameters: Ron On Resistance in Ohms, Roff Off Resistance in Ohms
* VON On Current in Amps, VOFF Off Current in Amps
* IF V(3) > VON THEN RSwitch=RON, IF V(3) < VOFF THEN RSwitch=ROFF, ELSE
* RSwitch will smoothly transistion between the on and off states
* V(3) is single ended control voltage
* The switch uses a TANH Function for the resistance transition region
B1 1 2 I=V(1,2)/ ({ROFF}-{.5*(ROFF-RON)} * (1 + V(5)))
B2 5 0 V=TANH({(VOFF+VON)/(VOFF-VON)} + (2 * V(3)/{VON-VOFF}))
.ENDS
**********
*SRC=GSW;GSW;Switches;Gudermanian;Gudermanian Function
*SYM=SWITCH3
.SUBCKT GSW  1 2 3   4 {RON=1 ROFF=1MEG VON=1 VOFF=0 SC=15.708}
*Connections + - NC+ NC-
*Parameters: Ron On Resistance in Ohms, Roff Off Resistance in Ohms
* VON On Current in Amps, VOFF Off Current in Amps, 
* SC Transition region slope modifier
* IF V(3) > VON THEN RSwitch=RON, IF V(3) < VOFF THEN RSwitch=ROFF, ELSE
* RSwitch will smoothly transistion between the on and off states
* The switch uses a Gudermannian Function for the resistance transition region
B1 1 2 I=V(1,2)/({.5 * (ROFF+RON)}-({2 * (ROFF-RON)}/PI * 
+ (ATAN(EXP({SC} * ((V(3,4)/{(VON+VOFF)/2}) - 1))) - PI/4)))
.ENDS
**********
*SRC=EXPSW;EXPSW;Switches;Exp. Function;Exponential Function
*SYM=SWITCH3
.SUBCKT EXPSW 1 2 3   4 {RON=1 ROFF=1MEG VON=1 VOFF=0 SC=20}
*Connections  + - NC+ NC-
*Parameters: Ron On Resistance in Ohms, Roff Off Resistance in Ohms
* VON On Current in Amps, VOFF Off Current in Amps, 
* SC Transition region slope modifier
* IF V(3) > VON THEN RSwitch=RON, IF V(3) < VOFF THEN RSwitch=ROFF, ELSE
* RSwitch will smoothly transistion between the on and off states
* The switch uses a Fermi Probability Function for the resistance transition region
B1 1 2 I=V(1,2)/({RON} + ({ROFF-RON}/(1 + EXP({SC} * 
+ (V(3,4)/{(VON+VOFF)/2} - 1)))) )
.ENDS
**********
*SRC=TIMESW;TIMESW;Switches;Time;Vout=In2 after Tswitch
*SYM=TIMESW
.SUBCKT TIMESW  1    2   3  {Tswitch=0}
*Connections    VOut In1 In2
*Parameters: Tswitch time for switch to change position in seconds
* VOut = In1 until time Tswitch. After Tswtich Vout=In2
B1 1 0 V=Time > {Tswitch} ? V(3) : V(2)
.ENDS
**********
*SRC=CAPACITOR;CAPACITOR;Capacitors;Nonideal;Ideal Capacitor
*SYM=CAP
.SUBCKT CAPACITOR 1 2 {C=1U}
*Parameters: C capacitance in Farads
C1 1 2 {C}
.ENDS
**********
*SRC=CAPACITOR1;CAPACITOR1;Capacitors;Nonideal;Generic w/Parasitics
*SYM=CAP
.SUBCKT CAPACITOR1 1 2 {ESR=1M ESL=20N RLEAK=100MEG C=???}
*Parameters: C Capacitance in Farads, ESR ESR in Ohms
* ESL ESL in Henries, RLEAK Leakage resistance in Ohms
C1 1 3 {C}
R1 3 4 {ESR}
L1 4 2 {ESL}
RL 1 2 {RLEAK}
.ENDS
**********
*SRC=INDUCTOR;INDUCTOR;Inductors;Nonideal;Ideal Inductor
*SYM=IND
.SUBCKT INDUCTOR 1 2 {L=1U}
*Parameters: L Inductance in Henries
L1 1 2 {L}
.ENDS
**********
*SRC=INDUCTOR1;INDUCTOR1;Inductors;Nonideal;Generic w/Parasitics
*SYM=IND
.SUBCKT INDUCTOR1 1 2 {DCR=1M CP=??? L=???}
*Parameters: L Inductance in Henries, DCR DC series resistance in Ohms
* CP parallel capaictance in Farads
L1 1 3 {L}
R1 3 2 {DCR}
C1 1 2 {CP}
.ENDS
**********
*SRC=INDUCTOR2;INDUCTOR2;Inductors;Nonideal;Generic w/More Parasitics
*SYM=IND
.SUBCKT INDUCTOR2 1 2 {DCR=1M L0=??? F0=??? Idc=???}
*Parameters:
* DCR - DC Resistance i Ohms
* L0 - Inductance at the self resonant frequency in Henries
* F0 - Self resonant frequency in Hz
* Idc - Maximum DC current in Amps
* L1 derived from 0.9L0 = L0 + L2Idc^2 --> L2 = -0.1L0/Idc^2
* Reproduced with permission by Martin O-Hara Newport Components Ltd, England
L1 1 3 L={L0} + {-0.1*L0/Idc^2}*I(R1)^2
R1 3 2 {DCR}
*C1 1 2 {L0/(2*3.1415*F0)^2}	;Old Equation
C1 1 2 C={1/((4*(3.1415)^2*(F0)^2)*L0)}
.ENDS
**********
*SRC=RESISTOR;RESISTOR;Resistors;Nonideal;Ideal Resistor w/tempco
*SYM=RESISTOR
.SUBCKT RESISTOR 1 2 {R=1K TC=100U}
*Parameters: R - Resistance value in Ohms, TC Temperature coefficient in 1/degreesC
R1 1 2 {R} RMOD
.MODEL RMOD R TC1={TC}
.ENDS
**********
*SRC=RESISTOR1;RESISTOR1;Resistors;Nonideal;Generic w/Parasitics
*SYM=RESISTOR
.SUBCKT RESISTOR1 1 2 {R=1K LS=??? CP=??? TC=100U}
*Parameters:
* R - Resistance value in Ohms
* CP - Parallel Capacitance in Farads
* LS - Series Inductance in Henries
* TC - Temperature coefficient in 1/degreesC, 100ppm default)
C1 1 2 {Cp}
R1 1 3 {R} RMOD
.MODEL RMOD R TC1={TC}
L1 3 2 {Ls}
.ENDS
**********

